US05096919
A solution of (E)-3-[4-(2,5-dimethyl-1H-pyrrol-1-yl)-phenyl]-2-propenoic acid in ethyl acetate is hydrogenated at 3 atmospheres pressure using 10% palladium on charcoal to yield 3-[4-(2,5-dimethyl-1H-pyrrol-1-yl)-phenyl]-propanoic acid, as an oil.

reactant | (E)-3-[4-(2,5-dimethyl-1H-pyrrol-1-yl)-phenyl]-2-propenoic acid | CC=1N(C(=CC1)C)C1=CC=C(C=C1)/C=C/C(=O)O | C15H15NO2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | palladium on charcoal | [Pd] | Pd
product | 3-[4-(2,5-dimethyl-1H-pyrrol-1-yl)-phenyl]-propanoic acid | CC=1N(C(=CC1)C)C1=CC=C(C=C1)CCC(=O)O | C15H17NO2
